### PR TITLE
[Merged by Bors] - feat: congruence theorems for interval/circle integrals

### PR DESCRIPTION
**Pull request by kebekus**
Prove that integrals are invariant when functions are changed along a discrete set.

This material is used in [Project VD](https://github.com/kebekus/ProjectVD), which aims to formalize Value Distribution Theory for meromorphic functions on the complex plane.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/DiscreteSubset.lean [hunk 1]
```diff
@@ -122,6 +122,18 @@ lemma Filter.codiscreteWithin.mono {U₁ U : Set X} (hU : U₁ ⊆ U) :
   rw [Set.compl_subset_compl]
   exact diff_subset_diff_left hU
 
+/-- If `s` is codiscrete within `U`, then `sᶜ ∩ U` has discrete topology. -/
+theorem discreteTopology_of_codiscreteWithin
+    {X : Type u_1} [TopologicalSpace X]
```
[the remark this answers is not in the document]
Comment (kebekus) [reply Mathlib/Topology/DiscreteSubset.lean]: You are right. Fixed by using a topological space in scope.

File: Mathlib/MeasureTheory/Integral/IntervalIntegral.lean [hunk 2]
```diff
@@ -965,6 +984,19 @@ theorem integral_congr_ae (h : ∀ᵐ x ∂μ, x ∈ Ι a b → f x = g x) :
     ∫ x in a..b, f x ∂μ = ∫ x in a..b, g x ∂μ :=
   integral_congr_ae' (ae_uIoc_iff.mp h).1 (ae_uIoc_iff.mp h).2
 
+/-- Integrals are invariant when functions change along sets that are almost
+everywhere for the restricted measure. -/
```
[the remark this answers is not in the document]
Comment (kebekus) [reply Mathlib/MeasureTheory/Integral/IntervalIntegral.lean]: Reformulated for clarity. It seems that writing docstrings is not my strong point at all. Maybe I should have an AI do that.

File: Mathlib/MeasureTheory/Topology.lean [hunk 3]
```diff
@@ -0,0 +1,27 @@
...
+/-!
+# Theorems combining measure theory and topology
+
+This file gathers theorems that combine measure theory and topology, and cannot easily be added to
+the existing files without introducing massive dependencies between the subjects.
+-/
+open Filter MeasureTheory
+
+/-- Under reasonable assumptions, sets that are codiscrete within `U` are almost
+everywhere with respect to the restricted measure. -/
```
[the remark this answers is not in the document]
Comment (kebekus) [reply Mathlib/MeasureTheory/Topology.lean]: ditto

File: Mathlib/MeasureTheory/Integral/CircleIntegral.lean [hunk 4]
```diff
@@ -162,6 +161,16 @@ for multiplication in a normed algebra over the base field. -/
 theorem differentiable_circleMap (c : ℂ) (R : ℝ) : Differentiable ℝ (circleMap c R) := fun θ =>
   (hasDerivAt_circleMap c R θ).differentiableAt
 
+open Complex in
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/CircleIntegral.lean:164]:
```suggestion
```
Not needed, I think.

File: Mathlib/MeasureTheory/Integral/CircleIntegral.lean [hunk 5]
```diff
@@ -162,6 +161,16 @@ for multiplication in a normed algebra over the base field. -/
...
+/-- The circleMap is real analytic. -/
+theorem analyticOnNhd_circleMap {c : ℂ} {R : ℝ} :
+    AnalyticOnNhd ℝ (circleMap c R) Set.univ := by
+  intro z hz
+  apply analyticAt_const.add
+  apply analyticAt_const.mul
+  rw [(by rfl : (fun θ ↦ exp (θ * I) : ℝ → ℂ) = cexp ∘ (fun θ : ℝ ↦ (θ * I)))]
+  apply analyticAt_cexp.restrictScalars.comp ((ofRealCLM.analyticAt z).mul (by fun_prop))
+
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/CircleIntegral.lean:173]: Could you also add
```lean
theorem contDiff_circleMap (c : ℂ) (R : ℝ) {n : WithTop ℕ∞} :
    ContDiff ℝ n (circleMap c R) :=
  (analyticOnNhd_circleMap c R).contDiff
```
after this one, and remove the TODO about this a few lines above?

File: Mathlib/MeasureTheory/Integral/CircleIntegral.lean [hunk 6]
```diff
@@ -162,6 +161,16 @@ for multiplication in a normed algebra over the base field. -/
 theorem differentiable_circleMap (c : ℂ) (R : ℝ) : Differentiable ℝ (circleMap c R) := fun θ =>
   (hasDerivAt_circleMap c R θ).differentiableAt
 
+open Complex in
+/-- The circleMap is real analytic. -/
+theorem analyticOnNhd_circleMap {c : ℂ} {R : ℝ} :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/CircleIntegral.lean:166]: All the other statements with the same flavor have `c` and `r` explicit, so could you do the same?

File: Mathlib/MeasureTheory/Integral/CircleIntegral.lean [hunk 7]
```diff
@@ -193,6 +202,17 @@ theorem continuous_circleMap_inv {R : ℝ} {z w : ℂ} (hw : w ∈ ball z R) :
   -- Porting note: was `continuity`
   exact Continuous.inv₀ (by fun_prop) this
 
+theorem circleMap_preimage_codiscrete {c : ℂ} {R : ℝ} (hR : R ≠ 0) :
+    map (circleMap c R) (codiscrete ℝ) ≤ (codiscreteWithin (Metric.sphere c |R|)) := by
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/CircleIntegral.lean:206]:
```suggestion
    map (circleMap c R) (codiscrete ℝ) ≤ codiscreteWithin (Metric.sphere c |R|) := by
```

File: Mathlib/MeasureTheory/Integral/CircleIntegral.lean [hunk 8]
```diff
@@ -238,6 +258,18 @@ end CircleIntegrable
 theorem circleIntegrable_zero_radius {f : ℂ → E} {c : ℂ} : CircleIntegrable f c 0 := by
   simp [CircleIntegrable]
 
+/-- Circle integrability is invariant when functions change along discrete sets. -/
+theorem circleIntegrable_congr_codiscreteWithin {c : ℂ} {R : ℝ} {f₁ f₂ : ℂ → ℂ}
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/CircleIntegral.lean:262]: This one should rather be named `CircleIntegrable.congr_of_codiscreteWithin`, and then you should have another one named `circleIntegrable_congr_of_codiscreteWithin` which would be the iff version.

File: Mathlib/MeasureTheory/Integral/CircleIntegral.lean [hunk 9]
```diff
@@ -238,6 +258,18 @@ end CircleIntegrable
...
+    (hf : f₁ =ᶠ[codiscreteWithin (Metric.sphere c |R|)] f₂) :
+    CircleIntegrable f₁ c R → CircleIntegrable f₂ c R := by
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/CircleIntegral.lean:264]: Could you move the assumption left of the colon?

File: Mathlib/MeasureTheory/Integral/IntervalIntegral.lean [hunk 10]
```diff
@@ -90,6 +92,23 @@ theorem IntervalIntegrable.congr {g : ℝ → E} (hf : IntervalIntegrable f μ a
     IntervalIntegrable g μ a b := by
   rwa [intervalIntegrable_iff, ← integrableOn_congr_fun_ae h, ← intervalIntegrable_iff]
 
+/-- Interval integrability is invariant when functions change along discrete sets. -/
+theorem intervalIntegrable_congr_codiscreteWithin {g : ℝ → E}
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral.lean:96]: instead of stating that just for the volume, can you state it for an arbitrary measure without atoms?

Also, could you give first an implication (named `IntervalIntegrable.congr_codiscreteWithin`) and then the iff version as you do? Note that the implication has a one-line proof, as 
```
theorem IntervalIntegrable.congr_codiscreteWithin {g : ℝ → E}
    (h : f =ᶠ[codiscreteWithin (Ι a b)] g) 
    (hf : IntervalIntegrable f volume a b) : IntervalIntegrable g volume a b :=
  hf.congr (ae_of_restrVol_le_codiscreteWithin measurableSet_Ioc h)
```

File: Mathlib/MeasureTheory/Integral/CircleIntegral.lean (hunk 4 above)
Comment (kebekus) [reply Mathlib/MeasureTheory/Integral/CircleIntegral.lean:164]: You are right. Delted line as suggested.

File: Mathlib/MeasureTheory/Integral/CircleIntegral.lean (hunk 5 above)
Comment (kebekus) [reply Mathlib/MeasureTheory/Integral/CircleIntegral.lean:170]: Implemented.

File: Mathlib/MeasureTheory/Integral/CircleIntegral.lean (hunk 6 above)
Comment (kebekus) [reply Mathlib/MeasureTheory/Integral/CircleIntegral.lean:163]: Implemented.

File: Mathlib/MeasureTheory/Integral/CircleIntegral.lean (hunk 9 above)
Comment (kebekus) [reply Mathlib/MeasureTheory/Integral/CircleIntegral.lean:266]: Done.

File: Mathlib/MeasureTheory/Integral/IntervalIntegral.lean (hunk 10 above)
Comment (kebekus) [reply Mathlib/MeasureTheory/Integral/IntervalIntegral.lean:96]: Done.

File: Mathlib/MeasureTheory/Integral/CircleIntegral.lean [hunk 11]
```diff
@@ -238,6 +260,24 @@ end CircleIntegrable
 theorem circleIntegrable_zero_radius {f : ℂ → E} {c : ℂ} : CircleIntegrable f c 0 := by
   simp [CircleIntegrable]
 
+/-- Circle integrability is invariant when functions change along discrete sets. -/
+theorem CircleIntegrable.congr_of_codiscreteWithin {c : ℂ} {R : ℝ} {f₁ f₂ : ℂ → ℂ}
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/CircleIntegral.lean:264]:
```suggestion
theorem CircleIntegrable.congr_codiscreteWithin {c : ℂ} {R : ℝ} {f₁ f₂ : ℂ → ℂ}
```
Given that all the other theorems don't have an `of` there, let's remove this one (and the next one). Sorry I've changed my mind!

File: Mathlib/MeasureTheory/Integral/CircleIntegral.lean [hunk 12]
```diff
@@ -238,6 +260,24 @@ end CircleIntegrable
...
+    CircleIntegrable f₂ c R := by
+  by_cases hR : R = 0
+  · simp [hR]
+  apply (intervalIntegrable_congr_codiscreteWithin _).1 hf₁
+  rw [eventuallyEq_iff_exists_mem]
+  use (circleMap c R)⁻¹' {z | f₁ z = f₂ z}, codiscreteWithin.mono
+    (by simp only [Set.subset_univ]) (circleMap_preimage_codiscrete hR hf), (by tauto)
+
+/-- Circle integrability is invariant when functions change along discrete sets. -/
+theorem circleIntegrable_congr_of_codiscreteWithin {c : ℂ} {R : ℝ} {f₁ f₂ : ℂ → ℂ}
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/CircleIntegral.lean:275]:
```suggestion
theorem circleIntegrable_congr_codiscreteWithin {c : ℂ} {R : ℝ} {f₁ f₂ : ℂ → ℂ}
```

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!

**Comment by kebekus** [comment]
@sgouezel Thanks!

bors r+
